US04243678
Analogously to Example 47, 16.0 g of ethyl 4-(biphenyl-2-yl)aminobutyrate and 7.3 g of ethyldiisopropylamine in 70 ml of benzene are reacted with 4.4 g of acetyl chloride to obtain, as reaction product, 14.0 g (76.2% of theory) of ethyl 4-[N-(biphenyl-2-yl)acetamido]butyrate as a viscous non-distillable oil. The saponification of this ester and recrystallization of the crude product obtained from isopropyl alcohol yields 10.1 g (79.0% of theory) of 4-[N-(biphenyl-2-yl)acetamido]butyric acid, MP 124° to 125°.

reactant | ethyl 4-(biphenyl-2-yl)aminobutyrate | 16.0 g | C1(=C(C=CC=C1)NCCCC(=O)OCC)C1=CC=CC=C1 | C18H21NO2
reactant | ethyldiisopropylamine | 7.3 g | C(C)N(C(C)C)C(C)C | C8H19N
reactant | acetyl chloride | 4.4 g | C(C)(=O)Cl | C2H3ClO
solvent | benzene | 70 ml | C1=CC=CC=C1 | C6H6
product | ethyl 4-[N-(biphenyl-2-yl)acetamido]butyrate | 14.0 g, 76.2% | C1(=C(C=CC=C1)N(C(C)=O)CCCC(=O)OCC)C1=CC=CC=C1 | C20H23NO3
